US05250534
5-(2-Allyloxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
A mixture of 4-(2-allyloxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide (1.2 g, 0.0035 mol), sodium hydroxide (0.70 g, 0.018 mol), water (34 ml) and ethanol (8 ml) was refluxed for 5 hours. After cooling, the solution was exhaustively extracted with ethyl acetate. The combined extracts were washed with brine (30 ml), dried (Na2SO4), filtered and the solvent evaporated under vacuum to give a crude product which was crystallised from ethyl acetate/hexane to afford the title compound (0.476 g, 37%), m.p. 116°-119° C. Found: C,67.00; H,6.21; N,17.23. C18H20N4O2 requires C,66.65; H,6.21; N,17.27%.

reactant | 4-(2-allyloxybenzamido)-1-methyl-3-n-propylpyrazole-5-carboxamide | 0.0035 mol, 1.2 g | C(C=C)OC1=C(C(=O)NC=2C(=NN(C2C(=O)N)C)CCC)C=CC=C1 | C18H22N4O3
reactant | sodium hydroxide | 0.018 mol, 0.70 g | [OH-].[Na+]
reactant | water | 34 ml | O | H2O
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 5-(2-Allyloxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.476 g, 37% | C(C=C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C18H20N4O2
